US03993660
In the manner given in Example 3, a mixture of 5-nitro-2'-chloro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone, phthalimide and triphenylphosphine in tetrahydrofuran was treated with diethyl azodicarboxylate to give 5-nitro-2'-chloro-2-[3-(phthalimidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 5-nitro-2'-chloro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | [N+](=O)([O-])C=1C=CC(=C(C(=O)C2=C(C=CC=C2)Cl)C1)N1C(=NN=C1C)CO | C17H13ClN4O4
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-nitro-2'-chloro-2-[3-(phthalimidomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | [N+](=O)([O-])C=1C=CC(=C(C(=O)C2=C(C=CC=C2)Cl)C1)N1C(=NN=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O | C25H16ClN5O5
